2109-10-30 05:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - UOP 20cc/hr
   - Hct dropped from 37 to 29, rpt Hct 30.1.  T&S Ordered, DIC labs
   pending.
   - Tm 100.4 -- trending up
   Allergies:
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2109-10-29**] 10:00 PM
   Vancomycin - [**2109-10-29**] 11:10 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-10-30**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 62 (53 - 69) bpm
   BP: 98/51(63) {76/46(56) - 164/86(103)} mmHg
   RR: 17 (0 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 13 (3 - 304)mmHg
   Total In:
                                                                  1,160 mL
                                                                  2,094 mL
   PO:
   TF:
   IVF:
                                                                  1,160 mL
                                                                  2,094 mL
   Blood products:
   Total out:
                                                                    265 mL
                                                                    135 mL
   Urine:
                                                                    265 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    895 mL
                                                                  1,959 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 28 cmH2O
   SpO2: 100%
   ABG: 7.47/36/109/23/2
   Ve: 7.1 L/min
   PaO2 / FiO2: 218
   Physical Examination
   Cardiovascular: Gen: intubated, sedated
   Neck: JVP -
   Chest: RSubclavian line,  RRR, Nl S1 and S2. no m/r/g
   Abd: soft, ND, NT, ABS
   Ext:
   Neuro: PERRL, withdraws to pain.  ?posturing of right lower extremtity
   (unable to relax/dorsiflex foot even passively)
   Skin: multiple bruises over her wrists and left groin where access was
   attempted.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   193 K/uL
   9.4 g/dL
   141 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.6 mEq/L
   17 mg/dL
   111 mEq/L
   140 mEq/L
   30.1 %
   8.8 K/uL
        [image002.jpg]
                             [**2109-10-29**]  04:46 PM
                             [**2109-10-29**]  04:54 PM
                             [**2109-10-29**]  09:52 PM
                             [**2109-10-30**]  03:15 AM
                             [**2109-10-30**]  04:17 AM
   WBC
   8.3
   8.8
   Hct
   37.1
   28.0
   30.1
   Plt
   221
   193
   Cr
   0.4
   0.5
   TropT
   0.04
   0.05
   TCO2
   25
   27
   Glucose
   90
   141
   Other labs: PT / PTT / INR:14.6/28.2/1.3, CK / CKMB /
   Troponin-T:234/11/0.05, ALT / AST:[**8-14**], Alk Phos / T Bili:53/0.6,
   Differential-Neuts:76.6 %, Lymph:18.4 %, Mono:2.4 %, Eos:2.4 %, Lactic
   Acid:0.9 mmol/L, LDH:142 IU/L, Ca++:7.4 mg/dL, Mg++:1.4 mg/dL, PO4:1.9
   mg/dL
   Imaging: CXR:asymmetric elevation of the right hemidiaphragm, with an
   ill-defined opacity in the right lower lobe, likely representing
   atelectais.
   The left hemithorax is grossly clear without focal airspace
   consolidation.
   There is no pneumothorax. The left costophrenic angle is clear. The
   cardiomediastinal silhouette is unchanged and grossly normal.
   Microbiology: Blood/urine cx pending.
   Legionella negative
   Assessment and Plan
   69 year old woman with right lower lobe collapse of unknown etiology,
   presenting for elective bronchoscopy complicated by respiratory arrest
   and ongoing hypotension requiring vasopressor support, in critical
   condition.
   #. RESPIRATORY ARREST: No clear etiology for acute decompensation, as
   patient walked in for elective procedure, had no fever, chest pain or
   palpitations before. Differential diagnosis would include mucous
   plugging with resulting severe hypoxia, pulmonary embolus, tension
   pneumothorax, myocardial infarction, flash pulmonary edema, or
   exagerrated medication response (to sedation)  etc.  Patient still with
   large a-A gradient suggesting acute pulmonary process. Of all above
   however, most likely process is aspiration pneumonitis / pneumonia at
   the time of bronch leading to a reactive hypotension.  CXR remarkable
   only for Right lower and middle lobe collapse.
   - Decrease FIO2 as tolerated, will use SBG as surrogate given
   difficulties in obtaining arterial access, use O2 Sat.
   - Nebs round the clock
   - Tx for HAP, Vanco and Levoflox, if decompensates consider Flagyl.
   -  Chest x-ray without pneumothorax, mucus plugs remain.  Bronchoscopy
   would be ideal for suctioning and resolution.  ? Malignancy etiology or
   recurrent mucus plugging.
   -  ECG without acute changes, enzmes show leak of cardiac enzymes but
   not indicative of an acute MI
   # HYPOTENSION: Likely related to respiratory arrest as above. Given
   increasing fever curve, concerning for systemic infection. . As above
   however, these are rare and most likely etiology is infection.
   - Vanco and Levoflox for HAP/aspiratin pna
   - f/u  Blood cultures, urine culture, urine legionella antigen
   - Bolus as needed, goal CVP 16; consider RHC given high nl CVPs in
   setting of hypotension.  Primary pulmonary process resulting in
   elevated RVDP and relatively nl PCWP seems likely.
   - Acute worsening of mucus plug causing hypoxia and inability to
   compensate given chronically plugged RLL.  Bronchoscopy with suction
   should be done urgently.
   - Pt high risk for PE, strange that she acutely decompensated during
   procedure and not tachycardic - however CTA should be performed if she
   does not improve suction
   - Wean Levophed as tolerated, (not tolerating)
   - f/u AM Chest x-ray
   - Cardiac enzymes have ruled out ischemia as cause of hypotension,
   however stunned myocardium and acute heart failure possible --> ECHO
   - TSH nl.
   - adrenal insufficiency seems less likely given she is fluid responsive
   and fluctuates bn hypo and hypertension.
   #Anemia - Hct dropped from 37 to 29.  Concern for DIC.  However also a
   high probability of RP bleed given multiple attempts at access
   yesterday when pt was acutely hypotensive and also for arterial access.
   -  9am Hct pending.
   - Goal: Hct > 27 given risk of bleed is high, is already hypotensive
   and she could acutely decompensate.
   #Low UOP - UOP maintained at 20-25cc/hr.  Renal function currently
   stable.  However, given hypotension, pre renal injury and ATN should be
   closely monitored for and avoided if possible.
   - avoid nephrotoxins
   - follow I/Os
   #Cardiac Enzyme Leak- Mild troponins and elevated CK/CKMB suggest mild
   ischemic insult but not sufficient to explain hypoxia and/or
   hypotension.  On a statin,  would choose to start ASA but given concern
   for bleed will defer at this time.
   #  GERD: H2 blocker, patient suspected of microaspiration events.
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  FULL
   # CONTACT:  [**Name (NI) 4457**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-10-29**] 04:32 PM
   22 Gauge - [**2109-10-29**] 05:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-10-31 09:36:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65F with chronically elevated right hemi-diaphragm; undergoing
   bronchoscopy for evaluation of possible endobronchial lesion by CT who
   developed respiratory failure during bronchoscopy requiring
   intubation.  She was admitted to the CCU on pressors which were
   weaned.  She underwent bronchoscopy while intubated without
   endobronchial lesion but did demonstrate secretions.  Because of a
   decreased HCT she had abd CT without an RP bleed, but did demonstrate a
   multifocal PNA.
   24 Hour Events:
   Continued to require levophed overnight.
   Able to wean PEEP to 5.
   Thick/tan secretions.
   Allergies:
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-10-30**] 08:00 PM
   Levofloxacin - [**2109-10-30**] 09:00 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Simvastatin
   Heparin prophylaxis
   Famotidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-10-31**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 75 (53 - 84) bpm
   BP: 110/48(64) {92/33(49) - 142/93(96)} mmHg
   RR: 18 (0 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (11 - 273)mmHg
   Total In:
                                                                  3,234 mL
                                                                    171 mL
   PO:
                                                                    510 mL
   TF:
   IVF:
                                                                  2,724 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                    885 mL
                                                                    820 mL
   Urine:
                                                                    885 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,349 mL
                                                                   -649 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 313 (313 - 313) mL
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 4.2 L/min
   Physical Examination
   Gen: Confirmed baseline mental status with family; moves and becomes
   agitated to external stimuli
   Chest: diminished breath sounds/bronchial BS at left base
   CV: RRR
   Abd: s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   9.1 g/dL
   177 K/uL
   92 mg/dL
   0.4 mg/dL
   19 mEq/L
   4.5 mEq/L
   11 mg/dL
   106 mEq/L
   133 mEq/L
   27.8 %
   8.0 K/uL
        [image002.jpg]
                             [**2109-10-29**]  04:46 PM
                             [**2109-10-29**]  04:54 PM
                             [**2109-10-29**]  09:52 PM
                             [**2109-10-30**]  03:15 AM
                             [**2109-10-30**]  04:17 AM
                             [**2109-10-30**]  09:26 AM
                             [**2109-10-30**]  01:40 PM
                             [**2109-10-30**]  06:17 PM
                             [**2109-10-30**]  06:18 PM
                            [**2109-10-31**]  05:15 AM
   WBC
   8.3
   8.8
   8.0
   Hct
   37.1
   28.0
   30.1
   27.7
   27.5
   28.0
   27.8
   Plt
   221
   193
   177
   Cr
   0.4
   0.5
   0.4
   0.4
   TropT
   0.04
   0.05
   0.05
   TCO2
   25
   27
   Glucose
   90
   141
   95
   92
   Other labs: PT / PTT / INR:14.6/28.2/1.3, CK / CKMB /
   Troponin-T:317/10/0.05, ALT / AST:[**8-14**], Alk Phos / T Bili:53/0.6,
   Differential-Neuts:76.6 %, Lymph:18.4 %, Mono:2.4 %, Eos:2.4 %,
   Fibrinogen:417 mg/dL, Lactic Acid:0.9 mmol/L, LDH:142 IU/L, Ca++:8.3
   mg/dL, Mg++:3.1 mg/dL, PO4:2.3 mg/dL
   Micro: cultures pending
   Assessment and Plan
   69F with developmental delay; now s/p respiratory failure during
   bronchoscopy in setting of PNA.
   1.       Hypoxemic Respiratory Failure:  PNA; RISB 120 this morning
   - Barriers to extubation include persistent hypoxemia and secretions
   with underlying poor baseline mental status
   - Decrease FiO2 to 0.4
   - obtain VBG
   - reassess ability to SBT this afternoon if secretions improve and
   oxygenation stable
   2.       PNA:
   - vancomycin/levofloxacin x 48h now with clinical stability.
   - cultures pending
   - Broaden coverage if indicated by clinical deterioration
   3.       Hypotension: TTE without significant cardiac etiology; also
   possible sepsis with PNA.  CVP 11
   - off levophed this morning
   - check CvO2
   - bolus to judge volume responsiveness
   ICU Care
   Nutrition: Start tube feeds
   Glycemic Control:  Insulin sliding scale
   Lines:
   Multi Lumen - [**2109-10-29**] 04:32 PM
   22 Gauge - [**2109-10-29**] 05:20 PM
   Prophylaxis:
   DVT: heparin prophylaxis
   Stress ulcer:
   Communication:  Patient guardian updated during rounds
   Code status: Full code
   Disposition : Critically ill, ICU
   Total time spent:  30 minutes CCT

2109-11-01 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: resp failure
   24 Hour Events:
   SBT tried [**11-1**] 93, still having thick secretions frequently
   Unable to wean levophed
   Started TFs
   Allergies:
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-10-31**] 08:00 PM
   Levofloxacin - [**2109-10-31**] 10:09 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-10-31**] 04:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-1**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 84 (55 - 110) bpm
   BP: 120/46(65) {86/33(50) - 137/121(124)} mmHg
   RR: 24 (0 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 58 Inch
    CVP: 10 (7 - 13)mmHg
   Total In:
                                                                  1,863 mL
                                                                     50 mL
   PO:
   TF:
                                                                     88 mL
                                                                     22 mL
   IVF:
                                                                  1,714 mL
                                                                     28 mL
   Blood products:
   Total out:
                                                                  2,530 mL
                                                                    960 mL
   Urine:
                                                                  2,430 mL
                                                                    960 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -667 mL
                                                                   -910 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 282 (282 - 425) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 6.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   174 K/uL
   8.7 g/dL
   93 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.7 mEq/L
   7 mg/dL
   111 mEq/L
   143 mEq/L
   26.4 %
   6.2 K/uL
        [image002.jpg]
                             [**2109-10-29**]  04:54 PM
                             [**2109-10-29**]  09:52 PM
                             [**2109-10-30**]  03:15 AM
                             [**2109-10-30**]  04:17 AM
                             [**2109-10-30**]  09:26 AM
                             [**2109-10-30**]  01:40 PM
                             [**2109-10-30**]  06:17 PM
                             [**2109-10-30**]  06:18 PM
                            [**2109-10-31**]  05:15 AM
                            [**2109-11-1**]  05:22 AM
   WBC
   8.8
   8.0
   6.2
   Hct
   28.0
   30.1
   27.7
   27.5
   28.0
   27.8
   26.4
   Plt
   193
   177
   174
   Cr
   0.5
   0.4
   0.4
   0.4
   TropT
   0.05
   0.05
   TCO2
   25
   27
   Glucose
   141
   95
   92
   93
   Other labs: PT / PTT / INR:12.9/28.3/1.1, CK / CKMB /
   Troponin-T:317/10/0.05, ALT / AST:[**8-14**], Alk Phos / T Bili:53/0.6,
   Differential-Neuts:76.6 %, Lymph:18.4 %, Mono:2.4 %, Eos:2.4 %,
   Fibrinogen:417 mg/dL, Lactic Acid:0.7 mmol/L, LDH:142 IU/L, Ca++:7.9
   mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR (my read): ? slightly improved on right but little
   significant change
   Microbiology: [**10-29**]: URINE CULTURE (Preliminary):
         ESCHERICHIA COLI.    >100,000 ORGANISMS/ML..
            PRESUMPTIVE IDENTIFICATION.
   MRSA screen positive
   Blood cx 12/8,9: NGTD
   Urine legionella: Negative
   BAL [**10-30**]: NGTD
   [**2109-10-30**] 3:21 pm Rapid Respiratory Viral Screen & Culture
      Respiratory Viral Culture (Preliminary):
      Respiratory Viral Antigen Screen (Final [**2109-10-30**]):
         Less than 60 columnar epithelial cells; Greater than 400
         polymorphonuclear leukocytes;.
         Specimen inadequate for detecting influenza by DFA testing.
         Interpret all negative results from this specimen with caution.
         Negative results should not be used to discontinue precautions.
         Refer to influenza culture results.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
   69 year old non-smoking woman with mild-moderate mental retardation,
   chronic elevated right hemidiaphragm, aspiration pneumonias,
   transferred from CCU after respiratory arrest.
   # RESPIRATORY ARREST: Likely secondary to V/Q mismatch during bronc in
   setting of left-sided pneumonia and right-sided colapse.  Mucuous
   plugging also possible.  No PE, pneumothorax on CT.  Low BP not
   consistant with flash pulm edema.  Bronchoscopy without evidence of
   intrabroncheal lesion.
   - Standing Nebs
   - Currently stable on minimal HAP treatment with Vanco and Levoflox; if
   decompensates would start cefepime.
   - will wean vent with goal of extubation, possibly today given adequate
   RSBI and tolerating SBT
   # HYPOTENSION: Likely related to respiratory arrest as above.
   Intubation may contibute to lower pressures.  Sepsis is also a
   consideration given known pneumonia.  Echo showed no intrinsic cardiac
   causes.  Elevated cardiac enzymes likely [**12-24**] myocardial stunning in
   setting of demand. Normal lactate and MVO2 sat >70 yesterday. [**Month (only) 51**] not
   be able to turn off pressors until extubated.
   - antibiotics as above
   - f/u  Blood cultures, urine culture,  BAL cultures
   - Wean Levophed as tolerated
   - IVF for CVP goal > 8
   - Check am cortisol, consider [**Last Name (un) 402**] stim if low
   # ANEMIA: Hct dropped from 37 to 29.  Concern for DIC but less likely
   given normal coags and stable HCT now.  No signs of hemolyisis.
   However also a high probability of RP bleed given multiple attempts at
   access yesterday when pt was acutely hypotensive and also for arterial
   access.  However, not seen on CT. HCT now currently stable
   - Goal: Hct > 27 given risk of bleed is high, is already hypotensive
   and she could acutely decompensate.
   .
   #Cardiac Enzyme Leak - Low suspicion for acute ischemia.  Likely [**12-24**]
   demand and hypotensive event.
   - continue to trend
   - ASA when stable
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2109-10-29**] 04:32 PM
   22 Gauge - [**2109-10-29**] 05:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:

2109-11-01 09:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    69yoF s/p hypoxemic respiratory failure during bronchoscopy, with PNA.
   24 Hour Events:
   SBT this morning with RSBI 93.
   She has remained on levophed with inability to wean secondary to HoTN.
   Moderate secretions requiring suctioning q4h.
   Allergies:
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2109-10-31**] 10:09 PM
   Vancomycin - [**2109-11-1**] 08:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-11-1**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2109-11-1**] 08:00 AM
   Other medications:
   Simvastatin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-1**] 08:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.1
   HR: 78 (55 - 110) bpm
   BP: 123/47(66) {86/33(50) - 137/121(124)} mmHg
   RR: 30 (6 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 58 Inch
   CVP: 13 (7 - 14)mmHg
   Total In:
                                                                  1,863 mL
                                                                    316 mL
   PO:
   TF:
                                                                     88 mL
                                                                     22 mL
   IVF:
                                                                  1,714 mL
                                                                    234 mL
   Blood products:
   Total out:
                                                                  2,530 mL
                                                                  1,115 mL
   Urine:
                                                                  2,430 mL
                                                                  1,115 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -667 mL
                                                                   -799 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 282 (282 - 425) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 6.1 L/min
   Physical Examination
   Gen: awake, alert, opens eyes to voice
   Chest:  Diminished breath sounds at both bases
   CV:  RRR
   Abd: s/nt/d
   Ext: minimal edema
   Labs / Radiology
   8.7 g/dL
   174 K/uL
   93 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.7 mEq/L
   7 mg/dL
   111 mEq/L
   143 mEq/L
   26.4 %
   6.2 K/uL
        [image002.jpg]
                             [**2109-10-29**]  04:54 PM
                             [**2109-10-29**]  09:52 PM
                             [**2109-10-30**]  03:15 AM
                             [**2109-10-30**]  04:17 AM
                             [**2109-10-30**]  09:26 AM
                             [**2109-10-30**]  01:40 PM
                             [**2109-10-30**]  06:17 PM
                             [**2109-10-30**]  06:18 PM
                            [**2109-10-31**]  05:15 AM
                            [**2109-11-1**]  05:22 AM
   WBC
   8.8
   8.0
   6.2
   Hct
   28.0
   30.1
   27.7
   27.5
   28.0
   27.8
   26.4
   Plt
   193
   177
   174
   Cr
   0.5
   0.4
   0.4
   0.4
   TropT
   0.05
   0.05
   TCO2
   25
   27
   Glucose
   141
   95
   92
   93
   Other labs: PT / PTT / INR:12.9/28.3/1.1, CK / CKMB /
   Troponin-T:317/10/0.05, ALT / AST:[**8-14**], Alk Phos / T Bili:53/0.6,
   Differential-Neuts:76.6 %, Lymph:18.4 %, Mono:2.4 %, Eos:2.4 %,
   Fibrinogen:417 mg/dL, Lactic Acid:0.7 mmol/L, LDH:142 IU/L, Ca++:7.9
   mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR: stable bilateral basilar infiltrates
   Microbiology: Urine culture: ecoli
   BAL: no growth
   Assessment and Plan
   69yoF with developmental delay; admitted with hypoxemic respiratory
   failure during bronchoscopy with multilobar PNA.
   1.       Respiratory Failure:
   - Passed SBT, minimal secretions, mental status at baseline; plan to
   extubate shortly
   2.       PNA: no culture data to guide therapy at this time; continue
   vancomycin and levofloxacin.
   3.       Hypotension:  Stable dose of pressors; suspect sepsis versus
   effect of positive pressure ventilation.  Not fluid responsive and CVP
   13.
   - attempt to wean today after extubation; would not aggressively
   hydrate at this point given CVP and lack of volume responsiveness
   yesterday.
   ICU Care
   Nutrition: Tube feeds held for probable extubation
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-10-29**] 04:32 PM
   22 Gauge - [**2109-10-29**] 05:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: [**Doctor First Name 12031**] has been updated frequently
   Code status: Full code, Disposition :ICU
   Total time spent: 35 minutes, Patient is critically ill

2109-11-02 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2109-11-1**] 09:17 AM
   Extubated, one episode of resp. distress after, better with neb and
   calming down.
   Unable to ween pressors still but episodes of hypertension with
   increased activity. Added on AM cortisol, ? adrenal insufficiency. 6.8
   but then off pressors at 3pm and so far so good. S+S eval says thin
   liqs and purrees.
   Then got increasing SOB after eating, worsening hypercarbia, VBG
   7.21/61, started on BIPAP overnight. Better now.
   Allergies:
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-11-1**] 08:26 PM
   Levofloxacin - [**2109-11-1**] 10:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-11-1**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2109-11-1**] 10:00 PM
   Lorazepam (Ativan) - [**2109-11-2**] 01:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-2**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.8
   HR: 89 (66 - 126) bpm
   BP: 142/51(75) {80/38(54) - 171/88(123)} mmHg
   RR: 21 (17 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 58 Inch
    CVP: 21 (10 - 21)mmHg
   Mixed Venous O2% Sat: 82 - 98
   Total In:
                                                                    858 mL
   PO:
                                                                    120 mL
   TF:
                                                                     22 mL
   IVF:
                                                                    656 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                    520 mL
   Urine:
                                                                  2,535 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,677 mL
                                                                   -520 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 307 (307 - 430) mL
   PS : 15 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 6.5 L/min
   Physical Examination
   Gen: awake, alert, opens eyes to voice
   Chest:  Diminished breath sounds at both bases
   CV:  RRR
   Abd: s/nt/d
   Ext: minimal edema
   Labs / Radiology
   158 K/uL
   8.6 g/dL
   100 mg/dL
   0.3 mg/dL
   25 mEq/L
   4.1 mEq/L
   5 mg/dL
   108 mEq/L
   140 mEq/L
   25.1 %
   5.7 K/uL
        [image002.jpg]
                             [**2109-10-29**]  09:52 PM
                             [**2109-10-30**]  03:15 AM
                             [**2109-10-30**]  04:17 AM
                             [**2109-10-30**]  09:26 AM
                             [**2109-10-30**]  01:40 PM
                             [**2109-10-30**]  06:17 PM
                             [**2109-10-30**]  06:18 PM
                            [**2109-10-31**]  05:15 AM
                            [**2109-11-1**]  05:22 AM
                            [**2109-11-2**]  04:29 AM
   WBC
   8.8
   8.0
   6.2
   5.7
   Hct
   28.0
   30.1
   27.7
   27.5
   28.0
   27.8
   26.4
   25.1
   Plt
   193
   177
   174
   158
   Cr
   0.5
   0.4
   0.4
   0.4
   0.3
   TropT
   0.05
   0.05
   TCO2
   27
   Glucose
   141
   95
   92
   93
   100
   Other labs: PT / PTT / INR:12.9/28.3/1.1, CK / CKMB /
   Troponin-T:317/10/0.05, ALT / AST:[**8-14**], Alk Phos / T Bili:53/0.6,
   Differential-Neuts:76.6 %, Lymph:18.4 %, Mono:2.4 %, Eos:2.4 %,
   Fibrinogen:417 mg/dL, Lactic Acid:0.8 mmol/L, LDH:142 IU/L, Ca++:7.9
   mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Microbiology:
   [**2109-10-29**] URINE:  ESCHERICHIA COLI.    >100,000 ORGANISMS/ML
                                ESCHERICHIA COLI
                                |
   AMPICILLIN------------  =>32 R
   AMPICILLIN/SULBACTAM--     4 S
   CEFAZOLIN-------------   <=4 S
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------   <=1 S
   CEFTRIAXONE-----------   <=1 S
   CIPROFLOXACIN---------   =>4 R
   GENTAMICIN------------   <=1 S
   MEROPENEM-------------<=0.25 S
   NITROFURANTOIN--------  <=16 S
   PIPERACILLIN/TAZO-----   <=4 S
   TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----   <=1 S
   [**2109-10-30**] 3:21 pm BRONCHIAL WASHINGS
      GRAM STAIN (Final [**2109-10-30**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2109-11-1**]):
         ~[**2099**]/ML Commensal Respiratory Flora.
         YEAST.    ~[**2099**]/ML.
            Isolates are considered potential pathogens in amounts
   >=10,000
            cfu/ml.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPOTENSION (NOT SHOCK)
   69 year old non-smoking woman with mild-moderate mental retardation,
   chronic elevated right hemidiaphragm, aspiration pneumonias,
   transferred from CCU after respiratory arrest.
   # RESPIRATORY ARREST: Overnight event likely aspiration vs. mucuous
   plug.  No PE, pneumothorax on CT.  Bronchoscopy without evidence of
   intrabroncheal lesion.  Sputum yeast is likely a contaminant.
   - speech and swallow re-eval
   - Standing Nebs
   - Currently stable on minimal HAP treatment with Vanco and Levoflox; if
   decompensates would start cefepime.
   # UTI: Given (+) urine culture, UA, and agitation, will treat for UTI.
   - ceftriaxone x3 days
   - d/c foley
   # HYPOTENSION: Likely related to respiratory arrest as above.
   Intubation may contibute to lower pressures.  Sepsis is also a
   consideration given known pneumonia.  Echo showed no intrinsic cardiac
   causes.  AM cortisol yesterday somewhat low.  Currently, off levophed.
   - cortisol stim test.
   - antibiotics as above
   - IVF for CVP goal > 8
   # ANEMIA: Hct dropped from 37 to 29 and continues to trend down.  CT
   negative for bleed and no evidence of GI bleeding.
   - goal Hct > 21
   .
   #Cardiac Enzyme Leak - Low suspicion for acute ischemia.  Likely [**12-24**]
   demand and hypotensive event.
   - continue to trend
   - ASA when stable
   ICU Care
   Nutrition: NPO pending speech and swallow
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2109-10-29**] 04:32 PM
   22 Gauge - [**2109-10-29**] 05:20 PM
   20 Gauge - [**2109-11-1**] 11:37 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code

2109-11-03 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Good UOP, d/c'd foley.  Checked ABV/VBG -> no evidence of shunt
   Allergies:
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-11-2**] 08:00 AM
   Levofloxacin - [**2109-11-2**] 10:53 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-11-2**] 03:33 PM
   Famotidine (Pepcid) - [**2109-11-2**] 08:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-3**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 98 (79 - 100) bpm
   BP: 146/71(90) {96/27(49) - 166/73(91)} mmHg
   RR: 24 (18 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 58 Inch
    CVP: 2 (-4 - 19)mmHg
   Total In:
                                                                    350 mL
   PO:
   TF:
   IVF:
                                                                    350 mL
   Blood products:
   Total out:
                                                                  1,495 mL
                                                                      0 mL
   Urine:
                                                                  1,495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,145 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 95%
   ABG: 7.37/50/87.[**Numeric Identifier 181**]/27/1
   PaO2 / FiO2: 220
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   169 K/uL
   8.5 g/dL
   93 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.6 mEq/L
   5 mg/dL
   105 mEq/L
   139 mEq/L
   25.5 %
   4.5 K/uL
        [image002.jpg]
                             [**2109-10-30**]  04:17 AM
                             [**2109-10-30**]  09:26 AM
                             [**2109-10-30**]  01:40 PM
                             [**2109-10-30**]  06:17 PM
                             [**2109-10-30**]  06:18 PM
                            [**2109-10-31**]  05:15 AM
                            [**2109-11-1**]  05:22 AM
                            [**2109-11-2**]  04:29 AM
                            [**2109-11-2**]  03:05 PM
                            [**2109-11-3**]  04:50 AM
   WBC
   8.0
   6.2
   5.7
   4.5
   Hct
   30.1
   27.7
   27.5
   28.0
   27.8
   26.4
   25.1
   25.5
   Plt
   177
   174
   158
   169
   Cr
   0.4
   0.4
   0.4
   0.3
   0.4
   TropT
   0.05
   TCO2
   30
   Glucose
   95
   92
   93
   100
   93
   Other labs: PT / PTT / INR:12.9/28.3/1.1, CK / CKMB /
   Troponin-T:317/10/0.05, ALT / AST:[**8-14**], Alk Phos / T Bili:53/0.6,
   Differential-Neuts:76.6 %, Lymph:18.4 %, Mono:2.4 %, Eos:2.4 %,
   Fibrinogen:417 mg/dL, Lactic Acid:0.8 mmol/L, LDH:142 IU/L, Ca++:8.9
   mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   69 year old non-smoking woman with mild-moderate mental retardation,
   chronic elevated right hemidiaphragm, aspiration pneumonias,
   transferred from CCU after respiratory arrest.
   # RESPIRATORY ARREST: Overnight event likely mucuous plug.  No PE,
   pneumothorax on CT.  Bronchoscopy without evidence of intrabroncheal
   lesion.  Sputum yeast is likely a contaminant.
   - speech and swallow re-eval
   - Standing Nebs
   - Currently stable on minimal HAP treatment with Levoflox; will d/c
   Vanc todau
   # UTI: Given (+) urine culture, UA, and agitation, will treat for UTI.
   - macrobid x3 days
   - d/c foley
   # HYPOTENSION: Likely related to respiratory arrest as above.
   Intubation may contibute to lower pressures.  Sepsis is also a
   consideration given known pneumonia.  Echo showed no intrinsic cardiac
   causes.  AM cortisol yesterday somewhat low.  Currently, off levophed.
   - antibiotics as above
   - IVF for CVP goal > 8
   # ANEMIA: Hct dropped from 37 to 29 and continues to trend down.  CT
   negative for bleed and no evidence of GI bleeding.
   - goal Hct > 21
   .
   #Cardiac Enzyme Leak - Low suspicion for acute ischemia.  Likely [**12-24**]
   demand and hypotensive event.
   - continue to trend
   - ASA when stable
   ICU Care
   Nutrition: NPO pending speech and swallow
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2109-10-29**] 04:32 PM
   22 Gauge - [**2109-10-29**] 05:20 PM
   20 Gauge - [**2109-11-1**] 11:37 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Need for restraints reviewed
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code

2109-11-04 11:23:00 Physician Attending Progress Note
Chief Complaint:
   Respiratory failure s/p bronchoscopy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    69yoF with history of developmental delay; admitted post-bronchoscopy
   after she required intubation for hypoxemic respiratory failure.
   Evidence of LLL PNA by chest CT.  Overall improving.
   24 Hour Events:
   Stable overnight, no more evidence of mucus plugging.
   Remains on 3L NC with adequate oxygenation.
   Weaned off pressors over weekend.
                   History obtained from Medical records
   Allergies:
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2109-11-2**] 08:00 AM
   Levofloxacin - [**2109-11-3**] 09:45 PM
   Other ICU medications:
   Famotidine (Pepcid) - [**2109-11-4**] 08:42 AM
   Heparin Sodium (Prophylaxis) - [**2109-11-4**] 08:42 AM
   Other medications:
   Simvastatin
   Albuterol/atrovent
   Macrobid
   ASA 81mg daily
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2109-11-4**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 93 (75 - 105) bpm
   BP: 141/66(82) {86/29(44) - 155/72(90)} mmHg
   RR: 21 (18 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 58 Inch
   CVP: 11 (8 - 14)mmHg
   Total In:
                                                                    200 mL
                                                                     50 mL
   PO:
   TF:
   IVF:
                                                                    200 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    200 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 3L
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Gen: Pleasant, NAD
   Chest: bronchial breath sounds at left base
   CV: RRR
   Abd: s/nt/nd
   Ext: no edema
   Labs / Radiology
   8.3 g/dL
   174 K/uL
   89 mg/dL
   0.3 mg/dL
   30 mEq/L
   3.7 mEq/L
   5 mg/dL
   106 mEq/L
   143 mEq/L
   25.1 %
   5.0 K/uL
        [image002.jpg]
                             [**2109-10-30**]  09:26 AM
                             [**2109-10-30**]  01:40 PM
                             [**2109-10-30**]  06:17 PM
                             [**2109-10-30**]  06:18 PM
                            [**2109-10-31**]  05:15 AM
                            [**2109-11-1**]  05:22 AM
                            [**2109-11-2**]  04:29 AM
                            [**2109-11-2**]  03:05 PM
                            [**2109-11-3**]  04:50 AM
                            [**2109-11-4**]  03:53 AM
   WBC
   8.0
   6.2
   5.7
   4.5
   5.0
   Hct
   27.7
   27.5
   28.0
   27.8
   26.4
   25.1
   25.5
   25.1
   Plt
   177
   174
   158
   169
   174
   Cr
   0.4
   0.4
   0.4
   0.3
   0.4
   0.3
   TropT
   0.05
   TCO2
   30
   Glucose
   95
   92
   93
   100
   93
   89
   Other labs: PT / PTT / INR:12.9/28.3/1.1, CK / CKMB /
   Troponin-T:317/10/0.05, ALT / AST:[**8-14**], Alk Phos / T Bili:53/0.6,
   Differential-Neuts:76.6 %, Lymph:18.4 %, Mono:2.4 %, Eos:2.4 %,
   Fibrinogen:417 mg/dL, Lactic Acid:0.8 mmol/L, LDH:142 IU/L, Ca++:8.9
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Micro: negative
   Assessment and Plan
   69yoF with developmental delay; s/p bronchoscopy for possible
   endobronchial lesion with subsequent hypoxemic respiratory failure
   likely from PNA.
   1.       PNA:  cultures remain negative from sputum and bronch
   - overall hypoxemia improving; plan to complete course of levofloxacin
   2.       UTI: ecoli, resistant to quinolones
   - complete macrobid course
   Remainder of plan per resident progress note.
   ICU Care
   Nutrition:  repeat swallow evalution
   Glycemic Control:  Insulin sliding scale; glucose acceptable
   Lines:
   Multi Lumen - [**2109-10-29**] 04:32 PM
   20 Gauge - [**2109-11-1**] 11:37 AM
   Prophylaxis:
   DVT:  Heparin prophylaxis
   Stress ulcer:  H2
   VAP: not intubated
   Communication:  [**Name (NI) 12031**] (HCP) updated during rounds
   Code status: Full code
   Disposition : Transfer to floor
   Total time spent:  25 minutes